US09029405B2
Step 4: tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylvalinate
To a stirred solution of tert-butyl 2-[(4-cyano-2-fluorobenzyl)(methyl)amino]-3-methylbutanoate (3.4 g, 0.011 mol), in ethanol (30 mL), was added 50% aqueous. hydroxylamine (1.4 mL, 0.021 mol). The mixture was stirred at −20° C., for 12 h. The reaction mixture was diluted with water and extracted in dichloromethane (100 mL), dried over Na2SO4 and concentrated under reduce pressure. The solid was recrystallised with ethyl acetate (5 mL), filtered and dried under vacuum, affording the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.73 (s, 1H), 7.49 (m, 1H), 7.38 (m, 2H), 5.85 (s, 2H), 3.71 (d, J=14.2 Hz, 1H), 3.57 (d, J=14.2 Hz, 1H), 2.66 (d, J=10.7 Hz, 1H), 2.18 (s, 3H), 1.99-1.93 (m, 1H), 1.45 (s, 9H), 0.91-0.81 (m, 6H). LC/MS (Method B) 354.3 (M+H)+. HPLC (Method A) Rt: 2.66 min (Purity 98.6%).

reactant | tert-butyl 2-[(4-cyano-2-fluorobenzyl)(methyl)amino]-3-methylbutanoate | 0.011 mol, 3.4 g | C(#N)C1=CC(=C(CN(C(C(=O)OC(C)(C)C)C(C)C)C)C=C1)F | C18H25FN2O2
reactant | hydroxylamine | 0.021 mol, 1.4 mL | NO | H3NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylvalinate | NC(C1=CC(=C(CN([C@@H](C(C)C)C(=O)OC(C)(C)C)C)C=C1)F)=NO | C18H28FN3O3
